US07205411B2
Following the same procedure as described in Example 1, (2-bromo-6-methyl-pyridin-3-yl)amine (200 mg, 1.07 mmol) reacted with (PPh3)2PdCl2 (36 mg, 0.05 mmol), Cul (10 mg, 0.05 mmol) and 1-ethynyl-3-fluorobenzene (148 μl, 1.28 mmol) in triethylamine (5 ml). The crude residue was purified by flash chromatography (hexane/ethyl acetate 4:1) to yield 145 mg (0.64 mmol, 60%) of (2-(3-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine as a pale yellow solid. The hydrochloride of (2-(3-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine was prepared as described in Example 1 to yield 148 mg (0.56 mmol, 88%) of the title hydrochloride as a yellow solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 1.07 mmol, 200 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | 1-ethynyl-3-fluorobenzene | 1.28 mmol, 148 μl | C(#C)C1=CC(=CC=C1)F | C8H5F
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.05 mmol, 36 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2-(3-fluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine | 0.64 mmol, 145 mg, 60% | FC=1C=C(C=CC1)C#CC1=NC(=CC=C1N)C | C14H11FN2
